US05350682
Synthesis of Mal-Tyr-Ala-Ala-OH
0.2 ml of aqueous solution containing 2 mM Mal-Tyr-OMe, 50 mM H-Ala-Ala-OH, 25 mM NaOH and 0.3 M α-chymotrypsin are deep-frozen. Subsequently the reaction mixture is kept at -25° C. until the Mal-Tyr-OMe is consumed. Following thawing, the yield is determined analytically by RP-HPLC and amounts to 94% of theory.

reactant | Tyr-OMe | N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC | C10H13NO3
reactant | H-Ala-Ala-OH | 50 mM | N[C@@H](C)C(=O)N[C@@H](C)C(=O)O | C6H12N2O3
reactant | NaOH | 25 mM | [OH-].[Na+]
product | Tyr-Ala-Ala-OH | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)O | C15H21N3O5
